US04673686
2-methoxy-4-bromo-5-chlorosulphonyl-benzoic acid
300 ml of chlorosulphonic acid of density 1.766 (4.55 mole) is placed in a 1 liter flask fitted with an agitator, a thermometer and a condenser, and 69.3 g of 2-methoxy-4-bromobenzoic acid (0.30 mole) is added in stages. The reaction is slightly exothermic and the temperature reaches 40° C. by the time all the benzoic acid has been added. The reaction medium is heated to 80° C. then returned to room temperature. The solution, which is brown, is poured slowly over 2 kg of crushed ice.

reactant | 2-methoxy-4-bromobenzoic acid | 0.30 mole, 69.3 g | COC1=C(C(=O)O)C=CC(=C1)Br | C8H7BrO3
reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | chlorosulphonic acid | 300 ml | ClS(=O)(=O)O | ClHO3S
product | 2-methoxy-4-bromo-5-chlorosulphonyl-benzoic acid | COC1=C(C(=O)O)C=C(C(=C1)Br)S(=O)(=O)Cl | C8H6BrClO5S
